US04954507
3-BENZYL-2,4-DIOXO-3,8-DIAZABICYCLO [3.2.1] OCTANE
In a dry flask were mixed 15 g of dry pyridine hydrochloride and 3.15 g (130 mmol) of 3-benzyl-2,4-dioxo-8-methyl-3,8-diazabicyclo [3.2.1] octane prepared according to U.S. Pat. No. 3,328,398 in 1967, Jun. 27. The mixture was heated in an oil bath preheated at 220° C. for 20 mn, cooled in an ice-bath, dissolved in 90 ml water, extracted four times with 100 ml ethyl ether. The organic layers were collected and dried over magnesium sulfate. After removing the solvent, the residue was chromatographied over silica-gel using dichloromethane/ethylacetate (80:20) to afford 1.5 g of the title compound (50%). M.P. 72° C.

reactant | pyridine hydrochloride | 15 g | Cl.N1=CC=CC=C1
reactant | 3-benzyl-2,4-dioxo-8-methyl-3,8-diazabicyclo [3.2.1] octane | 130 mmol, 3.15 g | C(C1=CC=CC=C1)N1C(C2CCC(C1=O)N2C)=O | C14H16N2O2
solvent | water | 90 ml | O | H2O
product | 3-BENZYL-2,4-DIOXO-3,8-DIAZABICYCLO [3.2.1] OCTANE | 1.5 g, 50% | C(C1=CC=CC=C1)N1C(C2CCC(C1=O)N2)=O | C13H14N2O2
